US04994452
Ethyl[(9-amino-1,2,3,4-tetrahydroacridin-8-yl)oxy]acetate
8-Hydroxy-1,2,3,4-tetrahydro-9-acridinamine hydrochloride (18.07 g) was suspended in 500 ml of dry dimethylformamide. Potassium carbonate (22.6 g) was added, and the reaction mixture was stirred vigorously for 30 mins. Ethyl bromoacetate (18.0 g) was added dropwise, and the reaction was stirred vigorously overnight. The reaction mixture was distributed between ethyl acetate and water, and the organic layer was separated. The aqueous phase was extracted three times with ethyl acetate, and the combined organic phase was washed with water, dried, filtered, and the filtrate evaporate. The residue was purified by flash chromatography (ethyl acetate, then 5% triethylamine/ethyl acetate) to give 15.75 g (72.91%) of product, mp 141°-142° C.

reactant | 8-Hydroxy-1,2,3,4-tetrahydro-9-acridinamine hydrochloride | 18.07 g | Cl.OC=1C=CC=C2N=C3CCCCC3=C(C12)N
reactant | Potassium carbonate | 22.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | Ethyl bromoacetate | 18.0 g | BrCC(=O)OCC | C4H7BrO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | Ethyl[(9-amino-1,2,3,4-tetrahydroacridin-8-yl)oxy]acetate | 15.75 g, 72.91% | C(C)OC(COC=1C=CC=C2N=C3CCCCC3=C(C12)N)=O | C17H20N2O3
